US07884210B2
{2-[3-(3,4-Difluoro-phenyl)-3-(4-methyl-cyclohexylmethyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
The title compound was prepared via {2-[3-(3,4-difluoro-phenyl)-3-(4-methyl-cyclohexylmethyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using 4-methyl-cyclohexylmethyl-(3,4-difluorophenyl)-amine and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester.

reactant | {2-[3-(3,4-difluoro-phenyl)-3-(4-methyl-cyclohexylmethyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(CC1CCC(CC1)C)C1=CC(=C(C=C1)F)F)=O | C22H27F2N3O3S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | 4-methyl-cyclohexylmethyl-(3,4-difluorophenyl)-amine | CC1CCC(CC1)CNC1=CC(=C(C=C1)F)F | C14H19F2N
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-(3,4-Difluoro-phenyl)-3-(4-methyl-cyclohexylmethyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | FC=1C=C(C=CC1F)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CC1CCC(CC1)C | C20H23F2N3O3S2
